US05545755
In Step 3, A-3 is reacted with trifluoromethanesulfonic anhydride in the presence of methylene chloride and pyridine to provide A-4 tetralin.

reactant | trifluoromethanesulfonic anhydride | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
product | tetralin | C1CCCC2=CC=CC=C12 | C10H12
